US05840917
3-Thiophenecarboxylic acid (5.12 g) was added portionwise to a mixture of nitric acid (20 ml) and sulfuric acid (11.5 ml) below 5° C. The mixture was stirred at the same temperature for 30 minutes, and poured into ice water. The mixture was alkalified with 1N sodium hydroxide and washed with diethyl ether. The aqueous layer was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate to give 5-nitro-3-thiophenecarboxylic acid (4.45 g) as crystals.

reactant | 3-Thiophenecarboxylic acid | 5.12 g | S1C=C(C=C1)C(=O)O | C5H4O2S
reactant | sulfuric acid | 11.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | nitric acid | 20 ml | [N+](=O)(O)[O-] | HNO3
product | 5-nitro-3-thiophenecarboxylic acid | 4.45 g | [N+](=O)([O-])C1=CC(=CS1)C(=O)O | C5H3NO4S
